US04349674
N,N'-Dibutylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (3.572 g., 0.02 mole) was dissolved in 50 ml. of methanol, treated with Norit and filtered. The filtrate was added to 3.767 g. (0.02 mole) of 1,3-dibutylthiourea dissolved in 25 ml. of methanol. The resulting solution was stirred at room temperature for 1 hour and evaporated on a rotary evaporator. The residual oil was triturated successively with several portions of ether, 2:1 pentane-ether and acetone, and was filtered and washed with pentane, to give 2.60 g. (38.6%) of product as a tan solid, m.p. 97°-99°.

reactant | 2-Chloro-3-methylquinoxaline | 0.02 mole, 3.572 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | 1,3-dibutylthiourea | 0.02 mole | C(CCC)NC(=S)NCCCC | C9H20N2S
solvent | methanol | CO | CH4O
product | N,N'-Dibutylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(NCCCC)=NCCCC | InChI=1S/C18H26N4S.ClH/c1-4-6-12-19-18(20-13-7-5-2)23-17-14(3)21-15-10-8-9-11-16(15)22-17;/h8-11H,4-7,12-13H2,1-3H3,(H,19,20);1H
